US05620979
3,5-Dichloro-1,2-diaminobenzene was prepared using an adaptation of the method of Bellamy, et al. (Bellamy, F. D. et al., Tetrahedron Lett. 25: 839 (1984)). A mixture of 2,4-dichloro-6-nitroaniline (1.00 g, 4.8 mmol) and SnCl2.2H2O (5.41 g, 24.1 mmol) dissolved in 10 mL ethyl acetate and 5 mL absolute ethanol under N2 was heated at 70° C. for 1 h. All the starting material had reacted as evidenced by TLC (silica gel, 3:1 hexanes:ethyl acetate). The reaction was allowed to cool to room temperature and poured into 40 mL crushed ice. Sufficient sat'd NaHCO3 solution was added (foaming!) to bring the pH to 5. The orange oil/thick white emulsion was extracted with 3×25 mL ethyl acetate and the combined organic extracts washed with sat'd NaCl solution. The organic phase was dried (MgSO4), vacuum filtered and the solvent rotary evaporated to yield a pale orange oil which crystallized on standing to yield 789 mg (93%). 1H NMR (CDCl3) δ 3.69 (br s, 4H, 2(NH2)); 6.61 (s, 1H, H-6); 6.82 (s, 1H, H-4).

reactant | 2,4-dichloro-6-nitroaniline | 4.8 mmol, 1.00 g | ClC1=C(N)C(=CC(=C1)Cl)[N+](=O)[O-] | C6H4Cl2N2O2
reactant | SnCl2.2H2O | 24.1 mmol, 5.41 g | O.O.Cl[Sn]Cl
reactant | ethanol | 5 mL | C(C)O | C2H6O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 3,5-Dichloro-1,2-diaminobenzene | ClC=1C(=C(C=C(C1)Cl)N)N | C6H6Cl2N2
